US05679696
A solution of 2-benzoyloxy-4-bromoanisole (5 g) and sodium hydroxide (3 g) in water (5 mL) and ethanol (50 mL) is heated at reflux for 1 hour 30 minutes. It is then evaporated and the residue is triturated with water (20 mL) and concentrated hydrochloric acid (10 mL) and extracted with dichloromethane (150 mL). The organic solution is washed with saturated aqueous sodium bicarbonate solution (3×25 mL), dried, and concentrated, to give 5-bromo-2-methoxyphenol (3.25 g), in the form of a white crystalline solid, m.p. 67°-68° C.

reactant | 2-benzoyloxy-4-bromoanisole | 5 g | C(C1=CC=CC=C1)(=O)OC1=C(C=CC(=C1)Br)OC | C14H11BrO3
reactant | sodium hydroxide | 3 g | [OH-].[Na+]
solvent | water | 5 mL | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 5-bromo-2-methoxyphenol | 3.25 g | BrC=1C=CC(=C(C1)O)OC | C7H7BrO2
